*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/4.70e-02[uF]/10[V]
* Murata P/N :GRM155R71A473MA01
* Property : C = 4.70e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71A473MA01 Port1 Port2
C01 Port1 N01 4.48e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.90e-10
R03 N02 N03 3.06e-02
C04 N03 N04 5.50e-06
R04 N03 N04 9.54e+02
C05 N04 N05 7.46e-06
R05 N04 N05 1.32e+02
C06 N05 N06 5.80e-06
R06 N05 N06 2.57e+01
C07 N06 N07 6.68e-06
R07 N06 N07 2.51e+00
C08 N07 N08 5.26e-06
R08 N07 N08 6.85e-01
C09 N08 N09 3.02e-06
R09 N08 N09 1.31e-01
C10 N09 N10 2.74e-06
R10 N09 N10 1.72e-02
L11 N10 N11 2.33e-11
R11 N10 N11 2.53e-01
L12 N11 N12 7.27e-11
R12 N11 N12 1.21e-01
C13 N12 N13 2.95e-08
L13 N12 N13 5.32e-11
R13 N12 N13 3.72e-02
C14 N13 Port2 7.32e-12
L14 N13 Port2 4.36e-11
R14 N13 Port2 6.39e+00
.ENDS GRM155R71A473MA01
